US07247646B2
D. 6-Bromo-7-hydroxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one
A solution of 6-bromo-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one (0.20 g, 0.3 mmol) and hydrogen bromide in acetic acid (10 mL) was heated to reflux overnight. After cooling, excess acetic acid was removed under reduced pressure. The resulting residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate, water, and saturated sodium chloride in succession; dried over magnesium sulfate; filtered; and concnetrated under reduced pressure to afford crude product. Purification using reverse-phase preparatory HPLC (20–80% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min) provided fractions that were subsequently neutralized with sodium bicarbonate and extracted using ethyl acetate. The organic fractions were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford the title compound (>98% pure, 45.0 mg, 23%). 1H NMR (300 MHz, d6-DMSO) δ 7.78 (m, 2H), 7.69 (s, 1H), 7.55 (m, 2H), 7.08 (m, 2H), 6.88 (s, 1H), 6.83 (m, 2H), 4.04 (t, 2H), 3.94 (s, 2H), 2.92 (t, 2H), 2.67 (bm, 4H), 1.72 (bm, 4H). MS (ESI) m/z 588.3 (M+1)+, 590.3 (M+1+2)+.

reactant | 6-bromo-7-methoxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 0.3 mmol, 0.20 g | BrC=1C=C2C(=C(C(OC2=CC1OC)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1 | C30H27BrF3NO4
reactant | hydrogen bromide | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 6-Bromo-7-hydroxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 45.0 mg | BrC=1C=C2C(=C(C(OC2=CC1O)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1 | C29H25BrF3NO4
